US07495103B2
To a suspension of NaH (3.47 g, 145 mmol, 60% in mineral oil) in THF (200 mL) was added diethyl malonate (18.5 g, 116 mmol) at 0° C. The mixture was stirred for 30 min at this temperature and 2,2,2-trifluoro-N-phenyl-acetimidoyl chloride (19 g, 92 mmol) was added at 0° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. The mixture was diluted with CH2Cl2, washed with saturated sodium bicarbonate solution and brine. The combined organic layers were dried over Na2SO4, filtered and concentrated to provide 2-(2,2,2-trifluoro-1-phenylimino-ethyl)-malonic acid diethyl ester, which was used directly in the next step without further purification.

reactant | NaH | 145 mmol, 3.47 g | [H-].[Na+]
reactant | diethyl malonate | 116 mmol, 18.5 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,2,2-trifluoro-N-phenyl-acetimidoyl chloride | 92 mmol, 19 g | FC(C(=NC1=CC=CC=C1)Cl)(F)F | C8H5ClF3N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(2,2,2-trifluoro-1-phenylimino-ethyl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C(C(F)(F)F)=NC1=CC=CC=C1)=O | C15H16F3NO4
